US05856518
1-[(RS)-1-Cyano-[(S)-1-phenylpropylamino]methyl]-1-ethoxycarbonylcyclopropane
An eggplant type flask was charged with 136 mg of potassium cyanide, 501 mg of (S)-1-phenylpropylamine and 1 ml of water. After adding 152 mg of ethyl 1-formylcyclopropane-1-carboxylate dissolved in 2 ml of ethanol, dropwise at room temperature, the resulting mixture was further mixed with 0.2 ml of concentrated hydrochloric acid, and stirred for 1 hour at the same temperature and then for 2 hours at 50° C. After confirming completion of the reaction, the reaction solution was mixed with ice water and extracted with ethyl acetate. Next, the resulting organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate and, after removing insoluble matter by filtration, the solvent was evaporated under a reduced pressure. Thereafter, the resulting residue was subjected to a silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 181 mg (59%) of a diastereomer mixture in the form of colorless oil. Formation ratio of the two diastereomers was calculated under the following analytical conditions.

reactant | potassium cyanide | 136 mg | [C-]#N.[K+]
reactant | (S)-1-phenylpropylamine | 501 mg | C1(=CC=CC=C1)[C@H](CC)N | C9H13N
reactant | ethyl 1-formylcyclopropane-1-carboxylate | 152 mg | C(=O)C1(CC1)C(=O)OCC | C7H10O3
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 1-[(RS)-1-Cyano-[(S)-1-phenylpropylamino]methyl]-1-ethoxycarbonylcyclopropane | 181 mg, 59% | C(#N)C(C1(CC1)C(=O)OCC)N[C@@H](CC)C1=CC=CC=C1 | C17H22N2O2
